US07528136B2
2-{4-[(2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(4-chloro-benzyl)-pyrrolidine-2-carbonyl]-piperazin-1-yl}-benzonitrile
As described for Example 64e, (2S,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-1-(4-chloro-benzyl)-pyrrolidine-2-carboxylic acid (1 mmol) was converted, using 2-piperazin-1-yl-benzonitrile instead of 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one, to the title compound (60 mg) in 9% yield as colorless oil. MS m/e=665.1 [M+H]+.

reactant | (2S,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-1-(4-chloro-benzyl)-pyrrolidine-2-carboxylic acid | 1 mmol | FC(C=1C=C(CN([C@H]2C[C@H](N(C2)CC2=CC=C(C=C2)Cl)C(=O)O)C)C=C(C1)C(F)(F)F)(F)F | C22H21ClF6N2O2
reactant | 2-piperazin-1-yl-benzonitrile | N1(CCNCC1)C1=C(C#N)C=CC=C1 | C11H13N3
product | 2-{4-[(2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(4-chloro-benzyl)-pyrrolidine-2-carbonyl]-piperazin-1-yl}-benzonitrile | 60 mg, 9% yield | FC(C=1C=C(CN([C@H]2C[C@H](N(C2)CC2=CC=C(C=C2)Cl)C(=O)N2CCN(CC2)C2=C(C#N)C=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C33H32ClF6N5O
